US05688946
A suspension of 1.12 g (4.47 mmol) of N-[(benzyloxy)carbonyl]-2,3-dimethyl-β-alanine (EPA 0230266), 1.1 g (4.47 mmol) of 3-(p-methoxyphenyl)-L-alanine methyl ester hydrochloride, 1.7 g (4.47 mmol) of HBTU and 1.25 ml (8.94 mmol) of triethylamine in 40 ml of acetonitrile is stirred at room temperature for 4 hours. After the addition of 50 ml of saturated sodium chloride solution the mixture is extracted 3 times with 50 ml of ethyl acetate each time. The combined organic phases are washed in sequence with 2N hydrochloric acid, water, 50% sodium hydrogen carbonate solution and water, dried over sodium sulphate and evaporated under reduced pressure. For purification, the residue is chromatographed on silica gel using a 95:5 mixture of methylene chloride and methanol as the eluent. N-[3-[1-(Benzyloxy)formamido]-3-methylbutyryl]-3-(p-methoxyphenyl)-L-alanine methyl ester is obtained as a colourless oil; MS: 443 (M+H)+.

reactant | N-[(benzyloxy)carbonyl]-2,3-dimethyl-β-alanine | 4.47 mmol, 1.12 g | C(C1=CC=CC=C1)OC(=O)NC(C(C(=O)O)C)C | C13H17NO4
reactant | 3-(p-methoxyphenyl)-L-alanine methyl ester hydrochloride | 4.47 mmol, 1.1 g | Cl.COC([C@@H](N)CC1=CC=C(C=C1)OC)=O
reactant | HBTU | 4.47 mmol, 1.7 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 8.94 mmol, 1.25 ml | C(C)N(CC)CC | C6H15N
reactant | sodium chloride | 50 ml | [Cl-].[Na+]
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | N-[3-[1-(Benzyloxy)formamido]-3-methylbutyryl]-3-(p-methoxyphenyl)-L-alanine methyl ester | COC([C@@H](NC(CC(C)(C)NC(=O)OCC1=CC=CC=C1)=O)CC1=CC=C(C=C1)OC)=O | C24H30N2O6
